US05945415
Fifty (50) g of 2,6-difluoropyridine was dissolved in 200 ml of tetrahydrofuran, and into the solution 326 ml of 1.6M n-butyl lithium-tetrahydrofuran solution was added dropwise at -70° C., followed by an hour's stirring at the same temperature. To the reaction mixture 29 g of dry ice blocks were added little by little, followed by 30 minutes' stirring at the same temperature. Raising the temperature to about 5° C., 500 ml of ice water was added. The reaction mixture was washed twice with ethyl acetate, and the aqueous layer was adjusted to pH 3 with conc. hydrochloric acid. The aqueous layer was then extracted with chloroform. The extract was washed with saturated saline water, dried over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure. The crystalline precipitate was collected by filtration, and recrystallized from diethyl ether-n-hexane to provide 63 g of 2,6-difluoro-3-pyridinecarboxylic acid (m.p. 170-171° C.).

reactant | 2,6-difluoropyridine | FC1=NC(=CC=C1)F | C5H3F2N
reactant | n-butyl lithium tetrahydrofuran | 1.6M, 326 ml | C(CCC)[Li].O1CCCC1
reactant | dry ice | 29 g | C(=O)=O | CO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,6-difluoro-3-pyridinecarboxylic acid | 63 g | FC1=NC(=CC=C1C(=O)O)F | C6H3F2NO2
